Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2],8.80381101722
[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.17109523625
[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-8.74857425548
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:1][O:2][C:3][C:4]#[C:6][O:7][H:8].[H:5],2.38158622278
[C:1][C:2]1[C:3]([H:4])[C@@:5]1([H:6])[O:7][O:8]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8],-1.2048924983700002
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:10]([O:9][C:6]([H:7])[H:8])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.0175179703601
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],0.8007760187899999
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],1.61070192304
[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.553623386812
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],4.02200117749
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],0.50470318112
[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:7]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.92665975002
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.7834799186
[C:2]#[C:3][O:4][C:5]([H:6])[H:7].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],-5.17549354015
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.975392438380001
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],-1.94653884477
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],5.31864606463
[H:1][C:2][O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.48908392511
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.2942163405
[H:1][O:2][C:3]1[C:4][O:5][C:6]1([H:7])[H:8]>>[H:1][O:2][C:3]([C:4]=[O:5])=[C:6]([H:7])[H:8],-2.43660568124
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3],1.94837484771
[C:2]([O:3][C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])[H:10],-6.33645727303
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-2.96572602766
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.125414562
[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9],3.07257225917
[C:1][C@@:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11]>>[C:1]=[C:2]1[O:8][C:9]1([H:10])[H:11].[C:3]([H:4])([H:5])[O:6][H:7],1.7401043774400002
[H:1][C:2]([H:3])[C:4]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.1596089698900003
[C:4][O:5][H:6].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][O:5][H:6],-0.63589467599
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.79441881934
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.2622669857100002
